US09255094B2
Preparation of 8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound No. 1-65)
To a solution of 8-methyl-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.372 mmol) in DMF (2 mL) were added sodium hydride (50 mg, 1.11 mmol) and 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate (271.3 mg, 0.932 mmol). The reaction mixture was irradiated in a microwave reactor at 90° C. for 1 h. The reaction mixture was cooled to RT, quenched with water and extracted with EtOAc (3×10 mL). The organic layer was washed with water (2×10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude material, which was purified by reverse phase HPLC. 1H NMR (CD3OD, TFA salt) d (ppm): 8.16 (s, 1H), 8.1 (d, 1H), 7.65 (d, 1H), 7.2 (s, 1H), 7.0 (d, 1H), 6.9 (d, 1H), 4.48 (s, 2H), 4.4 (t, 2H), 4.17 (q, 2H), 3.62 (t, 2H), 3.2 (t, 2H), 3.08 (t, 2H), 2.64 (s, 3H), 2.4 (s, 3H).

reactant | 8-methyl-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.372 mmol, 100 mg | CC1=CC=2C3=C(NC2C=C1)CCN(C3)CC(F)(F)F | C14H15F3N2
reactant | sodium hydride | 1.11 mmol, 50 mg | [H-].[Na+]
reactant | 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate | 0.932 mmol, 271.3 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCC=1C=NC(=CC1)C | C15H17NO3S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCN(C3)CC(F)(F)F | C22H24F3N3
